US06313137B1
Synthesis of 2,3-dimethyl-8-(2-ethyl-6-methylbenzyloxy)-imidazo[1,2-a]pyridine-6-carboxamide
6-amino-5-(2-ethyl-6-methylbenzyloxy)nicotinamide (0.14 g, 0.49 mmol), 3-bromo-2-butanone (0.075 g, 0.49 mmol) and sodium bicarbonate (0.1 g, 1.2 mmol) was added to acetonitrile (3 ml) and was refluxed for 20 h. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent. Crystallization from acetonitrile gave 0.058 g (35%) of the title compound.

reactant | 6-amino-5-(2-ethyl-6-methylbenzyloxy)nicotinamide | 0.49 mmol, 0.14 g | NC1=NC=C(C(=O)N)C=C1OCC1=C(C=CC=C1C)CC | C16H19N3O2
reactant | 3-bromo-2-butanone | 0.49 mmol, 0.075 g | BrC(C(C)=O)C | C4H7BrO
reactant | sodium bicarbonate | 1.2 mmol, 0.1 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2,3-dimethyl-8-(2-ethyl-6-methylbenzyloxy)-imidazo[1,2-a]pyridine-6-carboxamide | 0.058 g, 35% | CC=1N=C2N(C=C(C=C2OCC2=C(C=CC=C2C)CC)C(=O)N)C1C | C20H23N3O2
